US06610791B2
Synthesis of rhodanine-3-acetic acid Represented by the Following Formula
Glycine (19 g) and sodium hydroxide (20 g) were dissolved in water (50 g), and the resultant solution was cooled to 10° C. Carbon disulfide (19 g) was added dropwise to the solution over 30 minutes with stirring, and then the mixture was allowed to react at 20° C. for three days. Subsequently, a solution of sodium chloroacetate (29 g) in water (60 g) was added dropwise to the reaction mixture over 15 minutes, and the resultant mixture was allowed to react at room temperature for 24 hours. Concentrated hydrochloric acid (90 g) and water (32 g) were added to the reaction mixture, and the resultant mixture was allowed to react at 80° C. for five hours. After completion of reaction, precipitated target crystals were separated through filtration, washed with cold water, and dried to 50° C. for one day, to thereby yield 24 g of the crystals. The purity of the product, as obtained through liquid chromatography, was 98%.

reactant | Glycine | 19 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | sodium chloroacetate | 29 g | ClCC(=O)[O-].[Na+]
reactant | hydrochloric acid | 90 g | Cl | ClH
reactant | Carbon disulfide | 19 g | C(=S)=S | CS2
solvent | water | 50 g | O | H2O
solvent | water | 60 g | O | H2O
solvent | water | 32 g | O | H2O
product | rhodanine-3-acetic acid | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
